US07345056B2
Aqueous sodium hydroxide (3 N, 0.56 mL, 1.70 mmol) was added to a stirring solution of 1-[5-acetyl-12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-dien-10-yl]-ethanone (240 mg, 0.567 mmol) in THF (2 mL). The reaction mixture was stirred for 3 h at room temperature and subsequently diluted with ethyl acetate (10 mL) and water (5 mL). The phases were separated and the aqueous layer was extracted with ethyl acetate (2×5 mL). The organic extracts were combined, dried (Na2SO4), filtered, concentrated and purified by preparative HPLC to give 1-[12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-dien-10-yl]-ethanone as a white solid. Retention time (min)=1.242, method [1], MS(ESI) 381.0 (M+H); 1H NMR (300 MHz, CDCl3) (rotamers) δ 7.68-7.58 (m, 2H), 7.44 and 7.41 (2×s, 1H), 7.38-7.30 (m, 2H), 5.32-5.20 (m, 1H), 4.78 and 4.55 (2×d, J=13.2 Hz, 1H), 4.48-4.35 (m, 1H), 3.90-3.54 (m, 2H), 3.08-2.62 (m, 3H), 2.00 and 1.61 (2×s, 3H).

reactant | sodium hydroxide | 1.70 mmol, 3 N, 0.56 mL | [OH-].[Na+]
reactant | 1-[5-acetyl-12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-dien-10-yl]-ethanone | 0.567 mmol, 240 mg | C(C)(=O)N1N=CC=2C3CN(CC(CC12)N3S(=O)(=O)C3=CC=C(C=C3)Cl)C(C)=O | C18H19ClN4O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | 1-[12-(4-chloro-benzenesulfonyl)-4,5,10,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-dien-10-yl]-ethanone | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3CC1CN(C2)C(C)=O | C16H17ClN4O3S
